US09399623B2
A mixture of 2,6-dichloro-quinoline-5-carboxylic acid (1500.00 mg; 6.20 mmol; 1.00 eq.), (4,4-difluoro-cyclohexyl)-methylamine (1380.48 mg; 7.44 mmol; 1.20 eq.), (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride (1425.53 mg; 7.44 mmol; 1.20 eq.) (EDCI), benzotriazol-1-ol (1004.81 mg; 7.44 mmol; 1.20 eq.) (HOBt) and ethyl-diisopropyl-amine (2402.70 mg; 18.59 mmol; 3.00 eq.) in DMF (10.0 mL) was stirred at room temperature overnight. The mixture was poured into water, the solid was collected by filtration and washed with ethyl acetate, then dried over. The product, 2,6-dichloro-N-((4,4-difluorocyclohexyl)methyl)quinoline-5-carboxamide (1.78 g, 77% yield) was used for the next reaction without further purification. m/z: 374 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid | 6.20 mmol, 1500.00 mg, 1.00 eq. | ClC1=NC=2C=CC(=C(C2C=C1)C(=O)O)Cl | C10H5Cl2NO2
reactant | (4,4-difluoro-cyclohexyl)-methylamine | 7.44 mmol, 1380.48 mg, 1.20 eq. | FC1(CCC(CC1)NC)F | C7H13F2N
reactant | (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride | 7.44 mmol, 1425.53 mg, 1.20 eq. | Cl.CN(CCCN=C=NCC)C
reactant | benzotriazol-1-ol | 7.44 mmol, 1004.81 mg, 1.20 eq. | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | ethyl-diisopropyl-amine | 18.59 mmol, 2402.70 mg, 3.00 eq. | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2,6-dichloro-N-((4,4-difluorocyclohexyl)methyl)quinoline-5-carboxamide | 1.78 g, 77% yield | ClC1=NC=2C=CC(=C(C2C=C1)C(=O)NCC1CCC(CC1)(F)F)Cl | C17H16Cl2F2N2O
